* Z:\home\twoninefour\hdd\seniorDesign\Vupiter\src\switched\sim\Draft1.asc
XU1 N006 bo_div N008 N009 0 N007 vcc P001 NCP1252A
Lp N004 hs 90µ
Ls N005 N001 22.5µ
Lmag hs N004 900µ
V1 vin 0 400
D1 N001 N002 D
D2 N005 N002 D
D3 0 hs D
D4 vin N004 D
M1 N004 l_d sense sense NMOS
M2 vin h_d hs hs NMOS
L1 N003 N002 6µ
C1 N003 0 80µ Rser=0.2
R1 N003 0 100
Rt N009 0 17.16k
Rsense sense 0 0.444
Rcomp N008 sense 17.5k
C2 N008 0 12.5p
R2 vin bo_div 2Meg
R3 bo_div 0 5.571k
C3 bo_div 0 1n
XU2 N010 drv drv 0 NC_01 N012 ho hs N011 0 NC_02 NC_03 NC_04 NC_05 UCC27714_TRANS DLY_MATCH=0 EN_HYS=0.7 EN_TH=2.3 HILI_HYS=0.7 HILI_TH=2.3 VDD_HYS=0.5 VDD_TH=9.1 VHBHS_HYS=1.0 VHBHS_TH=8.3 MIPW=40 TPDLH_HL=20
R4 l_d 0 10k
R5 l_d N011 2
R6 h_d hs 10k
R7 h_d ho 2
C4 N012 hs 100n
D5 P002 N012 D
R8 P002 N010 2
C5 N010 0 10µ
R9 drv P001 51
C6 drv 0 220p
R10 vin N010 10
C7 0 N007 1µ
V2 vcc 0 12
R11 N006 0 10k
V3 N003 N006 20
.model D D
.lib C:\users\twoninefour\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\twoninefour\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 Lp Ls 1
.tran 0.5
.lib Z:\home\twoninefour\hdd\seniorDesign\Vupiter\src\switched\sim\ncp1252.lib
.lib Z:\home\twoninefour\hdd\seniorDesign\Vupiter\src\switched\sim\UCC27714_TRANS.LIB
.backanno
.end
